US07935815B2
Synthesis of 4-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridine-2-carboxylic acid diisopropylamide
4-Methyl-1H-imidazole (680 mg), copper iodide (78.8 mg), trans-1,2-bis(methylamino)cyclohexane (0.265 mL) and potassium carbonate (2.52 g) were added to a solution of 5-iodo-4-methoxypyridine-2-carboxylic acid diisopropylamide synthesized according to the method in Organic Letters, 2002, vol. 4, p. 2385 (3 g) in DMF (10 mL). The reaction solution was stirred in a sealed tube at 110° C. for 20 hours. The reaction solution was left to cool to room temperature, and ethyl acetate was added. The insoluble matter was removed by filtration through celite. The resulting organic layer was washed with brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain 881 mg of the title compound. The property value of the compound is as follows.

reactant | 4-Methyl-1H-imidazole | 680 mg | CC=1N=CNC1 | C4H6N2
reactant | trans-1,2-bis(methylamino)cyclohexane | 0.265 mL | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | potassium carbonate | 2.52 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-iodo-4-methoxypyridine-2-carboxylic acid diisopropylamide | C(C)(C)N(C(=O)C1=NC=C(C(=C1)OC)I)C(C)C | C13H19IN2O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | copper iodide | 78.8 mg | [Cu](I)I
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridine-2-carboxylic acid diisopropylamide | 881 mg | C(C)(C)N(C(=O)C1=NC=C(C(=C1)OC)N1C=NC(=C1)C)C(C)C | C17H24N4O2
